US08633186B2
3-hydroxy-N-(2-methoxyethyl)-2,2-dimethylpropanamide
Prepared as in Example 215d (Method A) from methyl 3-hydroxy-2,2-dimethylpropanoate and 2-methoxyethanamine in 100% yield. MS 176 (MH+).

reactant | methyl 3-hydroxy-2,2-dimethylpropanoate | OCC(C(=O)OC)(C)C | C6H12O3
reactant | 2-methoxyethanamine | COCCN | C3H9NO
product | 3-hydroxy-N-(2-methoxyethyl)-2,2-dimethylpropanamide | 100% yield | OCC(C(=O)NCCOC)(C)C | C8H17NO3
